Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p pedestrian struck right ankle pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male presents with the above fractures s/p pedestrian struck 
by car. Endorses right leg pain, worse with movement. Rest 
improves it. It is both at the ankle and knee. He has scattered 
abrasions which are also painful when moved.
 
Past Medical History:
Stroke (___)
Defibrillator placed (___) 
ICD post MI
Retinal detachment following fall, surgically repaired (in 
___ - ___  
Hyperlipidemia  

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physcial Exam:
PHYSICAL EXAMINATION:

Vitals: HR:92, BP:150/80, RR 17, O2 sat 99% RA

General: Well-appearing male in no acute distress.
bilateral upper extremity:
 - Skin intact
 - No deformity, edema, ecchymosis, erythema, induration
 - Soft, non-tender arm and forearm
 - Full, painless ROM at shoulder, elbow, wrist, and digits
 - Fires EPL/FPL/DIO
 - SILT axillary/radial/median/ulnar nerve distributions
 - 2+ radial pulse, WWP
right lower extremity:
 - Abrasions knee, great toe, medial ankle- none probe deep
 - swelling and tenderness at ankle
 - Pain with ankle and knee ROM
 - tenderness at fibular head
 - Painless ROM at hip
 - Fires ___
 - SILT S/S/SP/DP/T distributions
 - 2+ ___ pulses, WWP
left lower extremity:
 - abrasion and ecchymosis anterior knee
 - Soft, non-tender thigh and leg
 - Full, painless ROM at hip, knee, and ankle
 - Fires ___
 - SILT S/S/SP/DP/T distributions
 - 2+ ___ pulses, WWP

Discharge Physical Exam:
VS: 98.3, 120/64, 16, 98% RA
HEENT: PERRL, EMI, Mucus membranes pink/moist, multiple facial 
abrasions well scabbed.
CV: RRR
Pulm: Clear bilaterally
Abdom: Soft, mildly distended, non-tender, active bowel sounds.
Ext: Warm and dry. RLE in hard splint.
Neuro: A&Ox3. Follows commands and moves all extremities equal 
and strong. Speech is clear and fluent.

 
Pertinent Results:
___ 06:57AM BLOOD WBC-8.1 RBC-4.54* Hgb-13.1* Hct-41.2 
MCV-91 MCH-28.9 MCHC-31.8* RDW-12.9 RDWSD-42.6 Plt ___
___ 06:10PM BLOOD WBC-8.9 RBC-4.89 Hgb-14.3 Hct-44.6 MCV-91 
MCH-29.2 MCHC-32.1 RDW-12.9 RDWSD-42.8 Plt ___
___ 06:10PM BLOOD ___ PTT-30.1 ___
___ 06:57AM BLOOD Glucose-91 UreaN-11 Creat-0.8 Na-139 
K-3.8 Cl-101 HCO3-24 AnGap-18
___ 06:10PM BLOOD ALT-10 AST-22 LD(LDH)-222 CK(CPK)-265 
AlkPhos-64 TotBili-0.8
___ 06:10PM BLOOD Albumin-4.2 Calcium-8.8 Mg-2.2 
UricAcd-6.3
___:10PM BLOOD Osmolal-300
___ 06:10PM BLOOD TSH-1.6
___ 06:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:20PM URINE Color-Straw Appear-Clear Sp ___
___ 08:20PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 08:20PM URINE RBC-7* WBC-49* Bacteri-FEW Yeast-NONE 
Epi-0

___ 8:20 pm URINE
URINE CULTURE (Preliminary): 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 
      ENTEROCOCCUS SP..    10,000-100,000 CFU/mL.  SECOND 
MORPHOLOGY .

Radiology:
=======================

___ tib/fib: Proximal fibular fracture demonstrates minimal
anterior angulation.  Medial malleolar fracture demonstrates 
near
anatomic alignment. 

___ knee: (Impression not reported see below for findings)
RIGHT KNEE:  Linear lucency with cortical regularity involving
the proximal fibular metadiaphysis is compatible with a
nondisplaced fracture.  No additional fracture or dislocation is
seen.  Minimal degenerative spurring is noted in the
patellofemoral compartment.  A joint effusion is not identified. 

There are no concerning lytic or sclerotic osseous 
abnormalities.
Prepatellar and medial soft tissue swelling is demonstrated. 
  
LEFT KNEE:  No acute fracture or dislocation is evident.  
Minimal
tricompartmental degenerative spurring is noted.  No concerning
lytic or sclerotic osseous abnormalities present.  Minimal
scattered vascular calcifications are identified. 

___ ankle:  Nondisplaced medial malleolar fracture. 

___ spine: No fracture or traumatic malalignment.

___: CT Head: No acute intracranial hemorrhage or mass effect.
Mild soft tissue swelling overlying the right parietal and left
frontal bones without fracture. Chronic left frontal lobe
infarction. 

___ CT torso: No evidence of traumatic injury within the torso.
Moderate size hiatal hernia. Prostatomegaly. Bilateral complex
cystic lesions in both kidneys which appear to contain internal
septations. Further assessment with ultrasound is recommended. 

___hest:  Exclusion of the left costophrenic
angle.  Otherwise, no acute cardiopulmonary abnormality. 
 
 
Brief Hospital Course:
Mr. ___ is a ___ yo M admitted to the Acute Care Trauma 
Surgery Service on ___ after being reportedly stuck by a 
motor vehicle. EMS reports loss of consciousness at the scene 
but GCS of 15 and hemodynamically stable upon arrival to 
emergency department. Imaging revealed nondisplaced medial 
malleolar fracture and right rib fractures. Orthopedic surgery 
was consulted and non-operative management was determined. The 
right lower extremity was splinted at bedside. Tetanus vaccine 
was administered. The patient was admitted to the acute care 
surgery service for further pain management and respiratory 
monitoring. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with oral oxycodone and 
Tylenol once tolerating a diet. On HD3 he had an argument with 
son and reported suicidal ideations. Psychiatry was consulted 
and patient deemed no active suicide risk and should follow up 
with outpatient therapist. He was evaluated by neurology for 
post concussive symptoms and decreased hearing. No acute 
interventions recommended at this time; outpatient follow up as 
needed.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was given a regular diet with good 
tolerability. Patient's intake and output were closely 
monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

He was seen and evaluated by physical therapy who recommended 
___ rehab which was agreeable with the patient. 

The patient endorsed taking 81 mg aspirin but has not taken any 
other prescription medications in the past 6 months. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating with assist, voiding without assistance, and pain was 
well controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. Follow up appointments were 
scheduled and rehab arrangements were facilitated by case 
management. 

Rehab stay anticipated <30 days.

 
Medications on Admission:
Aspirine 81 mg. Not taking any other prescription medications in 
over 6 months. 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
do not exceed 4 grams/ 24 hours  
2.  Bisacodyl 10 mg PR QHS:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  Milk of Magnesia 30 mL PO Q6H:PRN constipation  
5.  Mineral Oil ___ mL PO ONCE MR1 Duration: 1 Dose  
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Take lowest effective dose.   
7.  Polyethylene Glycol 17 g PO DAILY  
8.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right rib fractures
Right medial malleolar fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Trauma Surgery Service on 
___ after being struck by a car sustaining a right ankle 
fracture and right sided rib fractures. You were seen by the 
orthopedic surgery team for your ankle who determined it to be a 
non-operative injury. A splint was placed and you should follow 
up at your appointment scheduled below. Your rib fractures will 
continue to heal over time. You were seen and evaluated by the 
neurologist for concussion symptoms and decreased hearing. You 
hearing improved and you should follow up with cognitive 
neurology if concussion symptoms continue. You were seen and 
evaluated by physical therapy who recommend discharge to 
___ rehabilitation to improve your mobility. 

You are now doing better, tolerating a regular diet, pain is 
controlled with oral medications and you are ready to be 
discharged to rehab to continue your recovery.

Please note the following discharge instructions:

* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
orthopedic surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___